US04059704
4-n-Propyl-3-(tetrazol-5-yl) coumarin
The reaction of 3-cyano-4-n-propyl coumarin (41.67 g; 0.196 mole) with ammonium azide as described in Example 1 afforded the title product, m.p. (EtOH) 178°-181° C (Found; C, 61.03; H, 4.95; N, 22.48; C13H12N4O2 requires; C, 60.93; H, 4.72; N, 21.86%).

reactant | 3-cyano-4-n-propyl coumarin | 0.196 mole, 41.67 g | C(#N)C=1C(OC2=CC=CC=C2C1CCC)=O | C13H11NO2
reactant | ammonium azide | [N-]=[N+]=[N-].[NH4+]
solvent | EtOH | CCO | C2H6O
product | 4-n-Propyl-3-(tetrazol-5-yl) coumarin | C(CC)C1=C(C(OC2=CC=CC=C12)=O)C1=NN=NN1 | C13H12N4O2
